US20010014681A1
Ethyl tetrahydrofuran-2-acetate
Following the procedure of Preparative Example 14, 2.0 g (17.5 mmol) of ethyl diazo acetate was reacted with tetrahydrofuran to give 1.7 g of the product as a colorless oil, bp 84°-86° C. at 20 mm Hg.

reactant | ethyl diazo acetate | 17.5 mmol, 2.0 g | CCO/C(=C/[N+]#N)/[O-] | C4H6N2O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | Ethyl tetrahydrofuran-2-acetate | 1.7 g | O1C(CCC1)CC(=O)OCC | C8H14O3
